US06506910B1
a) Preparation of (2R,3S,4S)-3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-5-hydroxy-N-methoxy-N,2,4-trimethyl-hexanamide
To a solution of 6.9 g (21.8 mmol) of (2R,3S,4R)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-methoxy-N,2,4-trimethyl-5-oxo-pentanamide in 50 mL of ether is added 10.2 mL (30.5 mmol) of a 3M solution of methylmagnesium bromide in ether, dropwise, at −40° C., after which the mixture is stirred at −20° C. for 1 hour. The reaction mixture is then dilluted with 200 mL of ether and the reaction is quenched by adding the reaction mixture to 20 g of crushed ice at 0° C. The mixture is then washed with 100 mL of 1 M sodium hydrogen sulfate solution and partitioned with two 150 mL portions of ether. The organic layers are then combined and dried over sodium sulfate. The crude product mixture is then chromatographed employing an eluent mixture of 20% ethyl acetate in hexane initially and then an eluent mixture of 40% ethyl acetate in hexane to yield two diastereomers as light yellow oils which are used in the next step without further purification.

reactant | (2R,3S,4R)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-methoxy-N,2,4-trimethyl-5-oxo-pentanamide | 21.8 mmol, 6.9 g | CC(C)(C)[Si](O[C@H]([C@H](C(=O)N(C)OC)C)[C@H](C=O)C)(C)C | C15H31NO4Si
reactant | methylmagnesium bromide | C[Mg]Br
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | (2R,3S,4S)-3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-5-hydroxy-N-methoxy-N,2,4-trimethyl-hexanamide | CC(C)(C)[Si](O[C@H]([C@H](C(=O)N(C)OC)C)[C@H](C(C)O)C)(C)C | C16H35NO4Si
